US04621084
A mixture of 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone (1.77 g) and sodium hydride (50% suspension in oil, 0.788 g) in dry dimethylformamide (24 ml) was stirred at 40° to 45° C. for 20 minutes. To the resultant mixture was added a solution of 2-diethylaminoethyl chloride hydrochloride (1.55 g) and 1.8 ml of a methanolic solution of sodium methoxide (5 mole/ml) in methanol (30 ml) at ambient temperature. The mixture was stirred for 4 hours under the same condition. The reaction mixture was poured into ice-water (300 ml) and extracted with ethyl acetate. The separated organic layer was re-extracted with 1N hydrochloric acid (25 ml) and the aqueous extract was allowed to stand for 2 hours at ambient temperature to give crystals, which was collected by filtration and dried over phosphorus pentoxide to give 5-(3,7dimethylimidazo[1,2-a]pyridin-2-yl)-3-(2-diethylaminoethyl)-2-benzothiazolinone hydrochloride (0.68 g). mp. 272° C. (dec.).

reactant | 5-(3,7-dimethylimidazo[1,2-a]pyridin-2-yl)-2-benzothiazolinone | 1.77 g | CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(NC(S1)=O)C2 | C16H13N3OS
reactant | sodium hydride | 0.788 g | [H-].[Na+]
reactant | 2-diethylaminoethyl chloride hydrochloride | 1.55 g | Cl.C(C)N(CCCl)CC
reactant | sodium methoxide | 5 mole/ml | C[O-].[Na+]
solvent | dimethylformamide | 24 ml | CN(C=O)C | C3H7NO
solvent | methanol | 30 ml | CO | CH4O
product | 5-(3,7dimethylimidazo[1,2-a]pyridin-2-yl)-3-(2-diethylaminoethyl)-2-benzothiazolinone hydrochloride | 0.68 g | Cl.CC1=C(N=C2N1C=CC(=C2)C)C=2C=CC1=C(N(C(S1)=O)CCN(CC)CC)C2 | InChI=1S/C22H26N4OS.ClH/c1-5-24(6-2)11-12-26-18-14-17(7-8-19(18)28-22(26)27)21-16(4)25-10-9-15(3)13-20(25)23-21;/h7-10,13-14H,5-6,11-12H2,1-4H3;1H
